US05380731
Step b: 1-[[(2-Ethoxy)ethyl]-1H-benzimidazol-2-yl][1-(4-piperidinyl)]methanone
Mix 1-[[(2-ethoxy)ethyl]-1H-benzimidazol-2-yl][1-(t-butyloxycarbonyl)-4-piperidinyl]methanone (10.07 g, 26.67 mmol) and trifluoroacetic acid (75 mL). Stir at room temperature until the reaction is complete. Pour onto water and carefully neutralize with solid sodium hydrogen carbonate. Extract into ethyl acetate (2×), wash with brine and dry (MgSO4). Evaporate the solvent in vacuo and purify by chromatography to give the title compound.

reactant | 1-[[(2-ethoxy)ethyl]-1H-benzimidazol-2-yl][1-(t-butyloxycarbonyl)-4-piperidinyl]methanone | 26.67 mmol, 10.07 g | CCOCCN1C(=NC2=C1C=CC=C2)C(=O)C2CCN(CC2)C(=O)OC(C)(C)C | C22H31N3O4
reactant | trifluoroacetic acid | 75 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 1-[[(2-Ethoxy)ethyl]-1H-benzimidazol-2-yl][1-(4-piperidinyl)]methanone | CCOCCN1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C17H23N3O2
